US06262069B1
Trans-1-azidocyclopentan-2-ol 1.27 g was dissolved in DMF and treated with sodium hydride (400 mg. 60%) at room temperature for 1h. 4-Fluoronitrobenzene (1.41 g) was added and the mixture stirred at 50° C. for 4 h and then left at room temperature overnight. The reaction was quenched with water and extracted with ether. The organic solution was washed with water, dried (MgSO4) and evaporated. Purification by flash chromatography (SiO2-20% DCM/hexane) gave trans-2-(4-nitrophenoxy) cyclopentylazide. 1H nmr (CDCl3) 8.22 (2H, d); 6.98 (2H, d); 5.63 (1H, m); 4.07 (1H, m); 2.20 (2H, m); 1.87 (4H, m).

reactant | Trans-1-azidocyclopentan-2-ol | 1.27 g | N(=[N+]=[N-])[C@H]1[C@@H](CCC1)O | C5H9N3O
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | 4-Fluoronitrobenzene | 1.41 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | trans-2-(4-nitrophenoxy) cyclopentylazide | [N+](=O)([O-])C1=CC=C(O[C@H]2[C@@H](CCC2)N=[N+]=[N-])C=C1 | C11H12N4O3
